US04639463
Methyl 5-(4-fluorophenylsulfonyloxy)benzimidazole-2-carbamate
2.8 ml of triethylamine are added dropwise, with stirring, to 2.07 g of methyl 5-hydroxybenzimidazole-2-carbamate and 1.94 g of 4-fluorobenzenesulfonyl chloride at about 10° C. The mixture is then stirred at room temperature for 2 h, 100 ml of 2N acetic acid are added while cooling, and the resulting precipitate is filtered off with suction, washed with water and dried. Melting point 236° C., decomposition, from dimethylformamide/methanol.

reactant | triethylamine | 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | methyl 5-hydroxybenzimidazole-2-carbamate | 2.07 g | OC1=CC2=C(N=C(N2)NC(=O)OC)C=C1 | C9H9N3O3
reactant | 4-fluorobenzenesulfonyl chloride | 1.94 g | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
solvent | acetic acid | 2N, 100 ml | C(C)(=O)O | C2H4O2
product | Methyl 5-(4-fluorophenylsulfonyloxy)benzimidazole-2-carbamate | FC1=CC=C(C=C1)S(=O)(=O)OC1=CC2=C(N=C(N2)NC(=O)OC)C=C1 | C15H12FN3O5S
